US04200641
A mixture of 4.94 parts of 1-(4-chlorobutyl)-1,3-dihydro-2H-benzimidazol-2-one, 5.76 parts of 1-[bis(4-fluorophenyl)methyl]piperazine, 5.3 parts of sodium carbonate, 0.1 parts of potassium iodide and 200 parts of 4-methyl-2-pentanone is stirred and refluxed for 20 hours with water-separator. After cooling, water is added and the layers are separated. The organic phase is dried, filtered and evaporated. The residue is crystallized from ethanol. The product is filtered off and dried, yielding 1-[4-{4-[bis(4-fluorophenyl)methyl]-1-piperazinyl}butyl]-1,3-dihydro-2H-benzimidazol-2-one dihydrochloride. hydrate. hemiethanolate; mp. 172.9° C.

reactant | 1-(4-chlorobutyl)-1,3-dihydro-2H-benzimidazol-2-one | ClCCCCN1C(NC2=C1C=CC=C2)=O | C11H13ClN2O
reactant | 1-[bis(4-fluorophenyl)methyl]piperazine | FC1=CC=C(C=C1)C(N1CCNCC1)C1=CC=C(C=C1)F | C17H18F2N2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | [I-].[K+]
solvent | water | O | H2O
solvent | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
product | 1-[4-{4-[bis(4-fluorophenyl)methyl]-1-piperazinyl}butyl]-1,3-dihydro-2H-benzimidazol-2-one dihydrochloride | Cl.Cl.FC1=CC=C(C=C1)C(N1CCN(CC1)CCCCN1C(NC2=C1C=CC=C2)=O)C2=CC=C(C=C2)F | InChI=1S/C28H30F2N4O.2ClH/c29-23-11-7-21(8-12-23)27(22-9-13-24(30)14-10-22)33-19-17-32(18-20-33)15-3-4-16-34-26-6-2-1-5-25(26)31-28(34)35;;/h1-2,5-14,27H,3-4,15-20H2,(H,31,35);2*1H
